US05578607
In a flask is placed 5,8-dimethyl-6-nitro-4-quinolone (3.01 g, 13.8 mmol) with phosphorus oxychloride (41.3 g, 268 mmol). The mixture is refluxed under argon with stirring for 3 hours. After cooling to room temperature the mixture is poured on crushed ice, and concentrated ammonium hydroxide (100mL) is added. Extraction with chloroform (2×200 mL), drying over potassium carbonate, filtration and solvent removal by rotary evaporation gives 4-chloro-5,8-dimethyl-6-nitroquinoline.

reactant | 5,8-dimethyl-6-nitro-4-quinolone | 13.8 mmol, 3.01 g | CC1=C2C(CC=NC2=C(C=C1[N+](=O)[O-])C)=O | C11H10N2O3
reactant | phosphorus oxychloride | 268 mmol, 41.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ammonium hydroxide | 100mL | [OH-].[NH4+]
product | 4-chloro-5,8-dimethyl-6-nitroquinoline | ClC1=CC=NC2=C(C=C(C(=C12)C)[N+](=O)[O-])C | C11H9ClN2O2
